US04789680
The starting material may be prepared as follows: A mixture of 98 g (0.678 mole) of 6-chloro-2-fluorotoluene, 91.5 g (0.678 mole) of sulfuryl chloride and 0.2 g of dibenzoyl peroxide is stirred for 3 hours at 100°-110° C. and then distilled, affording 6-chloro-2-fluorobenzyl chloride with a boiling point in the range from 78°-82° C.

reactant | 6-chloro-2-fluorotoluene | 0.678 mole, 98 g | ClC1=CC=CC(=C1C)F | C7H6ClF
reactant | sulfuryl chloride | 0.678 mole, 91.5 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | dibenzoyl peroxide | 0.2 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 6-chloro-2-fluorobenzyl chloride | ClC1=CC=CC(=C1CCl)F | C7H5Cl2F
